US04618677
A mixture of 1.0 g of cyclohexyl isocyanate, 2.1 g of 3-[4-(4-chlorobenzyl)piperazin-1-yl]propanethiol and 10 ml of methylene chloride was stirred at room temperature overnight and then concentrated in vacuo. The residue crystallized upon standing. The product was recrystallized from aqueous ethanol, dissolved in ether, and the ethanol solution was dried (magnesium sulfate). The salt was then precipitated with ethereal hydrochloric acid and recrystallized twice from aqueous ethanol to give 1.2 g (30% of theory) of N-cyclohexyl-S-{3-[4-(4-chlorobenzyl)piperazin- 1-yl]propyl}thiocarbamate dihydrochloride as a white crystalline solid, M.p. >165° C. (dec.).

reactant | cyclohexyl isocyanate | 1.0 g | C1(CCCCC1)N=C=O | C7H11NO
reactant | 3-[4-(4-chlorobenzyl)piperazin-1-yl]propanethiol | 2.1 g | ClC1=CC=C(CN2CCN(CC2)CCCS)C=C1 | C14H21ClN2S
solvent | methylene chloride | 10 ml | C(Cl)Cl | CH2Cl2
product | N-cyclohexyl-S-{3-[4-(4-chlorobenzyl)piperazin- 1-yl]propyl}thiocarbamate dihydrochloride | 1.2 g, 30% | Cl.Cl.C1(CCCCC1)NC(O)=SCCCN1CCN(CC1)CC1=CC=C(C=C1)Cl | InChI=1S/C21H34ClN3OS.2ClH/c22-19-9-7-18(8-10-19)17-25-14-12-24(13-15-25)11-4-16-27-21(26)23-20-5-2-1-3-6-20;;/h7-10,20,23,26-27H,1-6,11-17H2;2*1H
